US05538976
5-[N-(4-Bromobenzyl)-N-(4-cyanophenyl)amino]pyrimidine
Starting compounds: 5-[(4-cyanophenyl)amino]pyrimidine and 4-bromobenzyl bromide

reactant | 5-[(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | 5-[N-(4-Bromobenzyl)-N-(4-cyanophenyl)amino]pyrimidine | BrC1=CC=C(CN(C2=CC=C(C=C2)C#N)C=2C=NC=NC2)C=C1 | C18H13BrN4
